US07786132B2
A microwave tube was charged with 2-(5-bromo-2-(methylsulfonyl)pyrimidin-4-yl)thiazolo[5,4-c]pyridine (300 mg, 0.81 mmol), 1-(2-Aminoethyl)-5,5-dimethyl-imidazolidine-2,4-dione (138 mg, 0.81 mmol), isopropanol (3 mL) and N,N-diisopropylethylamine (0.21 mL, 1.21 mmol). The vessel was sealed and heated in a microwave reactor at 160° C. for 1000 seconds. The resulting solid was filtered off and washed with methanol (4×10 mL). The solid was then dissolved in dimethylsulfoxide (4 mL) and purified by reverse phase HPLC. Product fractions were combined and loaded onto an SCX cartridge, washed with methanol (4 mL), then free based and eluted with 2 M ammonia in methanol (4 mL). The solvent was evaporated in vacuo to yield 1-(2-(5-bromo-4-(thiazolo[5,4-c]pyridin-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione (17 mg, 5%) as a yellow amorphous solid. 1H NMR δ (d6-DMSO, 400 MHz) 1.50 (s, 6H), 3.67 (br. s., 2H), 3.75 (br. s., 2H), 4.32 (br. s., 1H), 6.89 (s, 1H), 7.49 (s, 1H), 8.33 (d, J=5.5 Hz, 1H), 8.91 (d, J=5.1 Hz, 1H), 9.71 (s, 1H): HRMS (M+H)+ Calcd. C17H16BrN7O2S 462.0348. found 462.0339.

reactant | 2-(5-bromo-2-(methylsulfonyl)pyrimidin-4-yl)thiazolo[5,4-c]pyridine | 0.81 mmol, 300 mg | BrC=1C(=NC(=NC1)S(=O)(=O)C)C=1SC=2C=NC=CC2N1 | C11H7BrN4O2S2
reactant | 1-(2-Aminoethyl)-5,5-dimethyl-imidazolidine-2,4-dione | 0.81 mmol, 138 mg | NCCN1C(NC(C1(C)C)=O)=O | C7H13N3O2
reactant | N,N-diisopropylethylamine | 1.21 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
product | 1-(2-(5-bromo-4-(thiazolo[5,4-c]pyridin-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 17 mg, 5% | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C=1SC=2C=NC=CC2N1 | C17H16BrN7O2S
